US07763618B2
Synthesis of [4-(6-AMINOPYRIDIN-3-YL)PIPERAZIN-1-YL]-(2-TRIFLUOROMETHYLPHENYL)METHANONE
To a solution of [4-(6-nitropyridin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)-methanone (0.089 g, 0.23 mmol) in 1:1 THF:MeOH (5 mL) was added 10% Pd/C (0.051 g). The resulting mixture was stirred under hydrogen atmosphere at 25° C. for 4 h. After filtering through a celite cake, the solution was concentrated in vacuo and yielded the title compound as a light yellow solid (0.039 g, 49% yield). MS (ES+) m/z 351.3.

reactant | [4-(6-nitropyridin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)-methanone | 0.23 mmol, 0.089 g | [N+](=O)([O-])C1=CC=C(C=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C17H15F3N4O3
reactant | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.051 g | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | [4-(6-AMINOPYRIDIN-3-YL)PIPERAZIN-1-YL]-(2-TRIFLUOROMETHYLPHENYL)METHANONE | 0.039 g, 49% yield | NC1=CC=C(C=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C17H17F3N4O
